US05147863
4-(Trifluoromethyl)-1,1'-bis[[2-(trimethylsilyl)ethoxy]-methyl]-2,2'bi-1H-imidazole
To 14.4 g (0.3 mol) 50% NaH (washed 3 times with hexane to remove the mineral oil) and 300 ml DMF, was slowly added 26.3 g (0.13 mol) 4-(trifluoromethyl)-2,2'-bi-1H-imidazole as a solid. The reaction was stirred for 2 hours at room temperature and then heated at 40° C. for 2 hours. Next, 50 g (0.3 mol) SEM-Cl was added dropwise. After 1 hour, the reaction was quenched with water (1 liter) and the product extracted into EtOAc (3×150 ml). After drying (NaSO4) and concentration, 51.2 g crude product was obtained. Purification by preparative HPLC (37% EtOAc/63% hexane) gave 16.7 g (28%) desired product as a tan oil; 1H NMR (CDCl3) δ-0.14 (s, 18), 0.61-1.0 (m, 4), 3.25-3.70 (m, 4), 5.76 (s, 2), 5.81 (s, 2), 0.61-1.0 (m, 4), 3.25-3.70 (m, 4), 5.76 (s, 2), 5.81 (s, 2), 6.91-7.06 (m, 2), 7.36 (s br, 1); MS (CI/CH4) m/z 463 (MH+).

reactant | NaH | 0.3 mol, 14.4 g | [H-].[Na+]
reactant | 4-(trifluoromethyl)-2,2'-bi-1H-imidazole | 0.13 mol, 26.3 g | FC(C=1N=C(NC1)C=1NC=CN1)(F)F | C7H5F3N4
reactant | SEM-Cl | 0.3 mol, 50 g | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | hexane | CCCCCC | C6H14
product | 4-(Trifluoromethyl)-1,1'-bis[[2-(trimethylsilyl)ethoxy]-methyl]-2,2'bi-1H-imidazole | 16.7 g, 28% | FC(C=1N=C(N(C1)COCC[Si](C)(C)C)C=1N(C=CN1)COCC[Si](C)(C)C)(F)F | C19H33F3N4O2Si2
